* Z:\mnt\design.r\spice\examples\2950-2.asc
R1 IN N001 100K
C1 N004 0 .033µ
C2 N005 0 .033µ
V1 N002 0 PWL(0 3.3 1 3.3 1.001 0 2 0 2.001 3.3 3 3.3 3.001 0 4 0 4.001 3.3 4.5 3.3 4.501 0 5.5 0 5.501 3.3 9 3.3 9.001 0 10 0 10.001 3.3 10.8 3.3 10.801 0)
V2 IN 0 PWL(0 0 1u 8.4)
R2 OUT N003 909K
C3 OUT 0 1µ
R3 N003 0 100K
XU1 IN N002 N004 0 N003 N001 N005 N003 LTC2950-2
M§Q1 OUT N001 IN IN AO6407
Rload OUT 0 100
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 13
.lib LTC2950-2.sub
.backanno
.end
